US05030754
EXAMPLE 6219-85: TMXDI+T4EGMA
To a one-liter 3-necked flask equipped with a thermometer, stirrer, dropping funnel and a nitrogen inlet was 122 g (0.5M) of TMXDI (from American Cyanamid). Then 193 g (1.0 mole) of tetraethylene glycol monoamine was added over a 50 minute period keeping the temperature below 36° C. A clear viscous product was obtained.

reactant | TMXDI | 0.5M, 122 g | CC(C)(C1=CC(=CC=C1)C(C)(C)N=C=O)N=C=O | C14H16N2O2
reactant | tetraethylene glycol monoamine | 1.0 mole, 193 g | C(COCCOCCOCCO)N | C8H19NO4
product | TMXDI T4EGMA | CC(C)(C1=CC(=CC=C1)C(C)(C)N=C=O)N=C=O.C(COCCOCCOCCO)N | InChI=1S/C14H16N2O2.C8H19NO4/c1-13(2,15-9-17)11-6-5-7-12(8-11)14(3,4)16-10-18;9-1-3-11-5-7-13-8-6-12-4-2-10/h5-8H,1-4H3;10H,1-9H2
